US06610707B1
Benzyl chloroformate (7.88 ml) was added over ten minutes to an ice-cold solution of 3-hydroxymethyl piperidine (5.76 g) and ethyldiisopropylamine (9.58 ml) in dichloromethane (300 ml). The reaction mixture was allowed to warm to room temperature and stirred for 1 hr. The reaction was then diluted with dichloromethane (500 ml), washed with 1N aqueous hydrochloric acid (200 ml), dried over magnesium sulphate, and evaporated to afford benzyl 3-(hydroxymethyl)-1-piperidinecarboxylate as an oil (12.4 g).

reactant | Benzyl chloroformate | 7.88 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 3-hydroxymethyl piperidine | 5.76 g | OCC1CNCCC1 | C6H13NO
reactant | ethyldiisopropylamine | 9.58 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | benzyl 3-(hydroxymethyl)-1-piperidinecarboxylate | 12.4 g | OCC1CN(CCC1)C(=O)OCC1=CC=CC=C1 | C14H19NO3
